US06451724B1
In a 0.5 l bulb were placed 100 ml 50% aqueous NaOH, 100 ml benzene, 6.1 g (28 mmol)of 5,6-dihydroindeno[2,1-b]indole, prepared in Example 4, 1.8 ml (28 mmol) of MeI and 0.5 g of trimethylcetylammonium bromide. After having stirred the obtained mixture for 2 hours, the formation of an organic phase was observed; said phase was separated, washed twice with water (100 ml) and dried over Na2SO4. After removal of the solvent, the residue was recrystallized from ethanol, obtaining 4.8 g of N-methyl-5,6-dihydroindeno[2,1-b]indole (yield=78%).

reactant | NaOH | 100 ml | [OH-].[Na+]
reactant | 5,6-dihydroindeno[2,1-b]indole | 28 mmol, 6.1 g | C1=C2C3=C(NC2=CC=C1)CC1=CC=CC=C13 | C15H11N
reactant | MeI | 28 mmol, 1.8 ml | CI | CH3I
catalyst | trimethylcetylammonium bromide | 0.5 g | [Br-].C[N+](CCCCCCCCCCCCCCCC)(C)C
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | N-methyl-5,6-dihydroindeno[2,1-b]indole | 4.8 g, yield=78% | CN1C2=C(C3=CC=CC=C13)C1=CC=CC=C1C2 | C16H13N
